US07737141B2
Synthesis of (R)-2-tert-butoxycarbonylamino-5-(4-chlorophenyl)-5-oxopentanoic acid ethyl ester
4-Chlorophenyl magnesium bromide (1.0 M diethylether solution, 17.1 mL) was dropwise added to a tetrahydrofuran solution (100 mL) of (R)-5-oxopyrrolidin-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (CAS Register No. 128811-48-3, 4.0 g) over 20 min at −40° C. The resulting reaction solution was stirred while heating from −40° C. to 0° C. for 1 hr. To this solution, water was gradually added at 0° C. The reaction solution was extracted with ethyl acetate. The extract solution was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to give 5.6 g of the title compound as a colorless oily substance. The physical property values of this compound were as follows:

reactant | 4-Chlorophenyl magnesium bromide | 1.0 M, 17.1 mL | ClC1=CC=C(C=C1)[Mg]Br
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | (R)-5-oxopyrrolidin-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 4.0 g | CCOC(=O)[C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
solvent | water | O | H2O
product | (R)-2-tert-butoxycarbonylamino-5-(4-chlorophenyl)-5-oxopentanoic acid ethyl ester | 5.6 g | C(C)OC([C@@H](CCC(=O)C1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C18H24ClNO5
